US05028605
A suspension of 0.470 g (1.57 mmol) of ethyl 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-carboxylate, obtained according to the process described in Example 3, in 50 ml of concentrated aqueous ammonia solution, is brought to reflux for 4 hours. After the mixture is cooled, the precipitate is drained, washed and dried. 0.160 g (Yld=40%) of 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-carboxamide (m.p. 312° C.) is obtained.

reactant | ethyl 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-carboxylate | 1.57 mmol, 0.470 g | BrC=1N=C(C=2N(C1)C=C(N2)C(=O)OCC)NC | C10H11BrN4O2
reactant | ammonia | 50 ml | N | H3N
product | 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-carboxamide | 0.160 g, 40% | BrC=1N=C(C=2N(C1)C=C(N2)C(=O)N)NC | C8H8BrN5O
